### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries/Basic) : basic lemmas

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Some basic lemmas about multivariate power series and polynomials taken from #15158.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 1]
```diff
@@ -732,6 +732,16 @@ theorem algebraMap_apply {r : R} :
...
 
+/-- Change of coefficients in mv power series, as an `AlgHom` -/
+def mapAlgHom {σ : Type*} {R : Type*} [CommSemiring R] {S : Type*}
+    [Semiring S] [Algebra R S] {T : Type*} [Semiring T] [Algebra R T]
+    (φ : S →ₐ[R] T) :
+    MvPowerSeries σ S →ₐ[R] MvPowerSeries σ T where
+  toRingHom   := MvPowerSeries.map σ φ
+  commutes' r := by
+    simp only [RingHom.toMonoidHom_eq_coe, OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe,
+      MonoidHom.coe_coe, MvPowerSeries.algebraMap_apply, map_C, RingHom.coe_coe, AlgHom.commutes]
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:743]: This is missing some API. Maybe add `@[simps]` or lemmas like `coeff_mapAlgHom` or `mapAlgHom_X`

**Review by erdOne — COMMENTED** [review]
Please add an empty line before the separator in the commit message, thanks!

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:743]: I imagine I could write `mapAlgHom_apply`. What would `@[simps]` do?

Comment (erdOne) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:743]: I was hoping that it would give `mapAlgHom_apply` but I have not tried it myself.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: It does, but not the one I would wish for (it is already expanded up to the coefficients).

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 2]
```diff
@@ -777,6 +777,15 @@ theorem algebraMap_apply {r : R} : algebraMap R A⟦X⟧ r = C A (algebraMap R A
 instance [Nontrivial R] : Nontrivial (Subalgebra R R⟦X⟧) :=
   { inferInstanceAs <| Nontrivial <| Subalgebra R <| MvPowerSeries Unit R with }
 
+/-- Change of coefficients in power series, as an `AlgHom` -/
+def mapAlgHom (φ : A →ₐ[R] B) :
+    PowerSeries A →ₐ[R] PowerSeries B :=
+ MvPowerSeries.mapAlgHom φ
+
+theorem mapAlgHom_apply (φ : A →ₐ[R] B) (f : A⟦X⟧) :
+      mapAlgHom φ f = f.map φ :=
```
Comment (erdOne) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:786]:
```suggestion
    mapAlgHom φ f = f.map φ :=
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 3]
```diff
@@ -863,6 +882,33 @@ theorem coeToMvPowerSeries.algHom_apply :
     coeToMvPowerSeries.algHom A φ = MvPowerSeries.map σ (algebraMap R A) ↑φ :=
   rfl
 
+theorem _root_.MvPowerSeries.prod_smul_X_eq_smul_monomial_one
+    {A : Type*} [CommSemiring A] [Algebra A R] (e : σ →₀ ℕ) (a : σ → A)  :
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:886]:
```suggestion
    {A : Type*} [CommSemiring A] [Algebra A R] (e : σ →₀ ℕ) (a : σ → A) :
```

**Review by erdOne — APPROVED** [review]
LGTM. Maybe @riccardobrasca would like to take a look too?

**Comment by AntoineChambert-Loir** [comment]
bors r+

Le 1 avril 2025 11:29:44 GMT+02:00, "mathlib-bors[bot]" ***@***.***> a écrit :
